US07504411B2
Mixture of 4-bromobenzaldehyde (22.40 g, 121.1 mmol), dimethyl malonate (19.37 g, 146.6 mmol), cat. acetic acid and cat. piperidine in toluene (100 ml) were refluxed for 6 h with azeotropically removal of water. Resulting solution was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water, saturated aqueous sodium bicarbonate and brine, dried over sodium sulfate. Concentration of the organic solvent in vacuo afforded 2-(4-bromo-benzylidene)-malonic acid diethyl ester as an oil that was used in the next step without further purification.

reactant | 4-bromobenzaldehyde | 121.1 mmol, 22.40 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | dimethyl malonate | 146.6 mmol, 19.37 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(4-bromo-benzylidene)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)=CC1=CC=C(C=C1)Br)=O | C14H15BrO4
